* C:\Users\tkknn\Documents\GitHub\rescue_tanaka_works\kicad\project\switching_board\ltspice_test\voltage_output.asc
M1 P001 N002 0 0 IRF6607
R1 N002 v12 1.2k
R2 N002 0 12k
V1 R7in 0 24
R3 R7in P001 5 tol=1 pwr=0.1
V2 v12 0 SINE(0 12 0.05 1n 1n 20)
M2 R7out N003 R6in R6in IRF6607
R4 N003 v12 1.2k
R5 N003 0 12k
R6 R6in 0 10k
R7 R7in R7out 91k
R8 sig R6in 1m
V3 N001 0 3.3
C1 N001 0 0.1µ
XU2 sig R9in N001 0 R9in LT1001
D1 0 sig D
D2 sig N001 D
.model D D
.lib C:\Users\tkknn\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tkknn\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600
.lib LTC.lib
.backanno
.end
